US05098466
A mixture of sulfuric acid (500 ml) and water (100 ml) is heated to 95° and 3-chloro-5-fluorobenzonitrile (94.8 gms) added. After 4 hours the mixture is cooled and poured over ice and water added to make 3.6 L. In 1.2 L portions the mixture is filtered, the solid rinsed with hexane and the aqueous rinsed with hexane (4×120 ml) then extracted with ethyl acetate (2×100 ml). The solid and the ethyl acetate extracts were combined, dried over magnesium sulfate and stripped to give 3-chloro-5-fluorobenzamide as a white solid.

reactant | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | 3-chloro-5-fluorobenzonitrile | 94.8 gms | ClC=1C=C(C#N)C=C(C1)F | C7H3ClFN
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-chloro-5-fluorobenzamide | ClC=1C=C(C(=O)N)C=C(C1)F | C7H5ClFNO
